US04476308
4.0 g of (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetic acid, 80 ml of absolute tetrahydrofuran and 5 ml of acetyl chloride are boiled at reflux for 4 hours while stirring. Thereafter, the mixture is evaporated. The residue is filtered through silica gel (granular size 0.2-0.5 mm). The evaporation residue of the fractions which are eluted with ethyl acetate is stirred in diethyl ether. By filtration there is isolated (R/S)-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetic acid of melting point 95°-96°.

reactant | (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetic acid | 4.0 g | OC1C(N(CC1)CC(=O)O)=O | C6H9NO4
reactant | acetyl chloride | 5 ml | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | (R/S)-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetic acid | C(C)(=O)OC1C(N(CC1)CC(=O)O)=O | C8H11NO5
